US04329347
6-[4-(2-Pyrimidyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril (m.p.: 147°-148° C.) and 2-mercapto-pyrimidine.

reactant | 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | 2-mercapto-pyrimidine | SC1=NC=CC=N1 | C4H4N2S
product | 6-[4-(2-Pyrimidyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | N1=C(N=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C17H19N3O2S
